* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : xor2                                         *
* Netlisted  : Thu Apr  4 22:34:44 2024                     *
* Pegasus Version: 21.32-s016 Wed Nov 9 21:23:04 PST 2022   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 6 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 7 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell(B)
*.DEVTMPLT 8 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_1                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn_CDNS_2                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn_CDNS_2 1
** N=2 EP=1 FDC=0
.ends polyConn_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nwellTap_CDNS_3                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nwellTap_CDNS_3 1
** N=3 EP=1 FDC=0
.ends nwellTap_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: subTap_CDNS_4                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt subTap_CDNS_4 1
** N=3 EP=1 FDC=0
.ends subTap_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_6                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_6 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_7                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_7 1 2 3 4
** N=6 EP=4 FDC=1
M0 2 3 1 4 nfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_7

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_8                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_8 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_8

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_9                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_9 1 2 3
** N=7 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=7.8e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_9

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nand2                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nand2 vdd! gnd! a b y
** N=11 EP=5 FDC=4
X0 a polyConn_CDNS_2 $T=570 3405 0 0 $X=435 $Y=3240
X1 b polyConn_CDNS_2 $T=1000 2770 0 0 $X=865 $Y=2605
X2 vdd! nwellTap_CDNS_3 $T=785 5975 0 90 $X=220 $Y=5710
X3 gnd! subTap_CDNS_4 $T=785 -5 0 270 $X=275 $Y=-215
X4 vdd! y a pfet_01v8_CDNS_6 $T=645 4680 1 180 $X=50 $Y=4500
X5 6 y b gnd! nfet_01v8_CDNS_7 $T=925 520 0 0 $X=810 $Y=370
X6 gnd! 6 a 7 nfet_01v8_CDNS_8 $T=495 520 0 0 $X=90 $Y=370
X7 vdd! y b pfet_01v8_CDNS_9 $T=925 4680 0 0 $X=520 $Y=4500
.ends nand2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: xor2                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt xor2 a b gnd! vdd! y
** N=9 EP=5 FDC=20
X0 a M1M2_C_CDNS_1 $T=130 2800 0 0 $X=0 $Y=2640
X1 a M1M2_C_CDNS_1 $T=135 3435 0 0 $X=5 $Y=3275
X2 a M1M2_C_CDNS_1 $T=135 4165 0 0 $X=5 $Y=4005
X3 2 M1M2_C_CDNS_1 $T=1435 3470 0 0 $X=1305 $Y=3310
X4 2 M1M2_C_CDNS_1 $T=1435 3790 0 0 $X=1305 $Y=3630
X5 b M1M2_C_CDNS_1 $T=2165 2800 0 0 $X=2035 $Y=2640
X6 b M1M2_C_CDNS_1 $T=2165 3430 0 0 $X=2035 $Y=3270
X7 4 M1M2_C_CDNS_1 $T=3475 2240 0 0 $X=3345 $Y=2080
X8 4 M1M2_C_CDNS_1 $T=3475 3435 0 0 $X=3345 $Y=3275
X9 2 M1M2_C_CDNS_1 $T=4205 3430 0 0 $X=4075 $Y=3270
X10 2 M1M2_C_CDNS_1 $T=4205 3750 0 0 $X=4075 $Y=3590
X11 5 M1M2_C_CDNS_1 $T=5515 1860 0 0 $X=5385 $Y=1700
X12 5 M1M2_C_CDNS_1 $T=5515 3425 0 0 $X=5385 $Y=3265
X13 4 M1M2_C_CDNS_1 $T=6245 2240 0 0 $X=6115 $Y=2080
X14 4 M1M2_C_CDNS_1 $T=6250 2800 0 0 $X=6120 $Y=2640
X15 a M1M2_C_CDNS_1 $T=6250 3475 0 0 $X=6120 $Y=3315
X16 a M1M2_C_CDNS_1 $T=6250 4160 0 0 $X=6120 $Y=4000
X17 5 M1M2_C_CDNS_1 $T=8275 1860 0 0 $X=8145 $Y=1700
X18 5 M1M2_C_CDNS_1 $T=8280 2800 0 0 $X=8150 $Y=2640
X19 vdd! gnd! a a 2 nand2 $T=0 0 0 0 $X=0 $Y=-260
X20 vdd! gnd! b b 4 nand2 $T=2035 0 0 0 $X=2035 $Y=-260
X21 vdd! gnd! 2 b 5 nand2 $T=4075 0 0 0 $X=4075 $Y=-260
X22 vdd! gnd! a 4 8 nand2 $T=6115 0 0 0 $X=6115 $Y=-260
X23 vdd! gnd! 8 5 y nand2 $T=8145 0 0 0 $X=8145 $Y=-260
.ends xor2
